US08071592B2
2-[({1-[2-(7-Fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}amino)methyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one Hydrochloride
To a solution of 4-chloro-2-[({1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}amino)methyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one (see Example 124(j) for a preparation) (67 mg, 0.13 mmol) in methanol (3 mL) was added NaHCO3 (40 mg) followed by 10% palladium over carbon catalyst (30 mg). The resulting mixture was stirred at room temperature under 1 atm of hydrogen (balloon) for 24 h. The reaction mixture was filtered through a nylon filter and the crude residue was purified by chromatography (silica gel) using a 0-20% MeOH/DCM gradient to provide the free base of the title compound (10 mg, 16%).

reactant | 4-chloro-2-[({1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}amino)methyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one | ClC=1N=C(NC=2C1OCC(N2)=O)CNC2CCN(CC2)CCN2C(C=CC1=CC=C(C=C21)F)=O | C23H24ClFN6O3
reactant | NaHCO3 | 40 mg | C(=O)(O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 2-[({1-[2-(7-Fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}amino)methyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one Hydrochloride | 10 mg, 16% | Cl.FC1=CC=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=NC=C2OCC(N=C2N1)=O)=O | InChI=1S/C23H25FN6O3.ClH/c24-16-3-1-15-2-4-22(32)30(18(15)11-16)10-9-29-7-5-17(6-8-29)25-13-20-26-12-19-23(27-20)28-21(31)14-33-19;/h1-4,11-12,17,25H,5-10,13-14H2,(H,26,27,28,31);1H
